US09260427B2
To a 100 ml flask were added (4-hydroxyphenyl)boronic acid (63 mg, 0.5 mmol), sodium carbonate decahydrate (217 mg, 0.8 mmol), tert-butyl 2-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanamido)-3-(tert-butoxy)-3-phenylpropanoate (290 mg, 0.4 mmol), Pd(dppf)Cl2 (28 mg, 0.04 mmol), dioxane (10.0 mL), and water (2.0 mL). The reaction mixture was heated to 80° C. overnight. The reaction mixture was dried under reduced pressure to remove the solvent and diluted in DCM (20 mL). The mixture was washed with aqueous NaHCO3 (3×10 mL). The combined organics were dried over Na2SO4 and evaporated to afford 309 mg (106%) of crude tert-butyl 3-(tert-butoxy)-2-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)-3-phenylpropanoate INT-51 which was used without further purification. LCMS-ESI (m/z) calculated for C45H52N4O6S: 776.9. found 721 [M−tBuO]+, tR=11.03 min. (Method 14).

reactant | (4-hydroxyphenyl)boronic acid | 0.5 mmol, 63 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate decahydrate | 0.8 mmol, 217 mg | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanamido)-3-(tert-butoxy)-3-phenylpropanoate | 0.4 mmol, 290 mg | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)NC(C(=O)OC(C)(C)C)C(C1=CC=CC=C1)OC(C)(C)C)NC(=O)C=1SC(=CC1)C(C)(C)C | C39H47BrN4O5S
reactant | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.04 mmol, 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2.0 mL | O | H2O
product | tert-butyl 3-(tert-butoxy)-2-((S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)-3-phenylpropanoate | 309 mg, 106% | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)NC([C@H](CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)O)NC(=O)C=1SC(=CC1)C(C)(C)C)=O)C1=CC=CC=C1 | C45H52N4O6S
